US07601738B2
(3S, 4aS, 6S, 8aR) 6-hydroxy-2-methoxycarbonyl-1,2,3,4,4a, 5,6,7,8,8a -decahydroisoquinoline-3-carboxylic acid
To a slurry of 17.3 g of (3S, 4aR, 8aR) 6-oxo-2-methoxycarbonyl-1,2,3,4,4a, 5,6,7,8,8a-decahydroisoquinoline-3-carboxylic acid (46 mmol) in 240 mL of tetrahydrofuran is added 106 mL if 1.0 M L-Selectride in tetrahydrofuran. The mixture is stirred for 1 hour at room temperature, then quenched with 130 mL of 1.4 M hydrochloric acid. The layers are separated and the aqueous phase extracted with 50 mL of tert-butyl methyl ether. The organic phases are combined and extracted with 75 mL of saturated aqueous sodium carbonate. The aqueous phase is washed twice with 30 mL portions of tert-butyl methyl ether then acidified to pH 1 with 6 M hydrochloric acid. The product is extracted into 75 mL of tert-butyl methyl ether. The organic mixture is dried with sodium sulfate, and concentrated to 8.17 g of yellow solid. The product is crystallized from 20 mL of tert-butyl methyl ether to provide 6.92 g of the title compound (59% yield).

reactant | (3S, 4aR, 8aR) 6-oxo-2-methoxycarbonyl-1,2,3,4,4a, 5,6,7,8,8a-decahydroisoquinoline-3-carboxylic acid | 46 mmol, 17.3 g | O=C1C[C@H]2C[C@H](N(C[C@@H]2CC1)C(=O)OC)C(=O)O | C12H17NO5
reactant | L-Selectride | 1.0 M | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
solvent | tetrahydrofuran | 240 mL | O1CCCC1 | C4H8O
product | (3S, 4aS, 6S, 8aR) 6-hydroxy-2-methoxycarbonyl-1,2,3,4,4a, 5,6,7,8,8a -decahydroisoquinoline-3-carboxylic acid | 6.92 g, 59% yield | O[C@@H]1C[C@@H]2C[C@H](N(C[C@@H]2CC1)C(=O)OC)C(=O)O | C12H19NO5
